US07238813B2
4-(4-Nitrophenoxy)-2-nitroaniline
To a solution of 4-hydroxy-2-nitroaniline (3.08 g, 20.0 mmol) in DMF (30 mL) was added NaH (60% oily, 880 mg, 22.0 mmol) followed by 1-fluoro-4-nitrobenzene (2.33 mL, 22.0 mmol). The mixture was stirred at 90° C. overnight. After cooling, the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4 then evaporated. Sequence purification on SiO2 column chromatography gave the title compound (4.56 g, 83%): MS m/e 274 (M−1).

reactant | 4-hydroxy-2-nitroaniline | 20.0 mmol, 3.08 g | OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H6N2O3
reactant | NaH | 22.0 mmol, 880 mg | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 22.0 mmol, 2.33 mL | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(4-Nitrophenoxy)-2-nitroaniline | 4.56 g, 83% | [N+](=O)([O-])C1=CC=C(OC2=CC(=C(N)C=C2)[N+](=O)[O-])C=C1 | C12H9N3O5
